US07842685B2
Synthesis of N-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)-phenyl)ethyl)glycine
To 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-ethanamine (83 mg, 0.213 mmol) was added glyoxylic acid monohydrate (39 mg, 0.426 mmol) and DCM (1 mL) before it was stirred for 5 h at ambient temperature. The reaction mixture was concentrated before adding concentrated hydrochloric acid (2.13 mL, 4.26 mmol) and heating to reflux for 16 h. The reaction mixture was diluted with 75 mL of DCM, added to a separatory funnel, partitioned with water, washed 1 time with 50 mL of water, separated, dried over sodium sulfate, and concentrated via rotovap to give the title compound after preparatory LC. MS (ESI) m/z: Calculated: 447.1; Observed: 448.1 (M++H).

reactant | 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-ethanamine | 0.213 mmol, 83 mg | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCN | C23H20FN3S
reactant | glyoxylic acid monohydrate | 0.426 mmol, 39 mg | O.C(C=O)(=O)O
reactant | hydrochloric acid | 4.26 mmol, 2.13 mL | Cl | ClH
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)-phenyl)ethyl)glycine | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCNCC(=O)O | C25H22FN3O2S
